US07091214B2
The method described in Part A of Example 9 was used to react 1-(3-amino-7-bromoquinolin-4-ylamino)-2-methylpropan-2-ol (29.0 g, 93.5 mmol) with 3-methoxypropionyl chloride (11.5 g, 93.5 mmol). The crude product was recrystallized from 2:1 ethyl acetate:hexane and then purified by flash column chromatography on silica gel (eluting sequentially with 60:40 acetone:toluene and acetone). The resulting solid was recystallized from 3:1 ethyl acetate hexane to provide 13.3 g of 1-[7-bromo-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol as translucent crystals.

reactant | 1-(3-amino-7-bromoquinolin-4-ylamino)-2-methylpropan-2-ol | 93.5 mmol, 29.0 g | NC=1C=NC2=CC(=CC=C2C1NCC(C)(O)C)Br | C13H16BrN3O
reactant | 3-methoxypropionyl chloride | 93.5 mmol, 11.5 g | COCCC(=O)Cl | C4H7ClO2
product | 1-[7-bromo-2-(2-methoxyethyl)-1H-imidazo[4,5-c]quinolin-1-yl]-2-methylpropan-2-ol | 13.3 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC(C)(O)C)CCOC | C17H20BrN3O2
